US08377923B2
5-chloro-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzamide (362 mg) was suspended in THF (10 ml), 1M hydrochloric acid (10 ml) was added thereto, followed by stirring at room temperature for 2 hours, warming to 50° C. and stirring for 30 minutes. The reaction solution was cooled to room temperature, and water and 1M hydrochloric acid were added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and concentrated under reduced pressure. The resulting solid was washed with diisopropylether to obtain, as a white solid, 5-chloro-N-(2,3-dihydroxypropyl)-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl)-4H-1,2,4-triazol-3-yl}ethoxy)benzamide (293 mg).

reactant | 5-chloro-N-[(2,2-dimethyl-1,3-dioxolan-4-yl)methyl]-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzamide | 362 mg | ClC=1C=CC(=C(C(=O)NCC2OC(OC2)(C)C)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C26H28ClF3N4O4
reactant | hydrochloric acid | 1M, 10 ml | Cl | ClH
reactant | water | O | H2O
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-chloro-N-(2,3-dihydroxypropyl)-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl)-4H-1,2,4-triazol-3-yl}ethoxy)benzamide | 293 mg | ClC=1C=CC(=C(C(=O)NCC(CO)O)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C23H24ClF3N4O4
